US08975415B2
Under ice cooling, to a solution of 2-(4-amino-6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-yl)-2,2-difluoroethanol (2.24 g, 6.46 mmol) in acetone (45 mL) was added benzoyl isothiocyanate (1.16 g, 7.10 mmol), and the mixture was stirred for 2 hours at room temperature and stirred for 13 hours at 40° C. After concentration, the residue was purified by silica gel chromatography (EtOAc/hexane=1:99-30:70) followed by purification using silica gel chromatography (NH-silicagel, EtOH/CHCl3=0:100-10:90) to give N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide (684 mg).

reactant | 2-(4-amino-6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-yl)-2,2-difluoroethanol | 6.46 mmol, 2.24 g | NC1(C2=CC(=CC=C2OCC12CC2)Br)C(CO)(F)F | C13H14BrF2NO2
reactant | benzoyl isothiocyanate | 7.10 mmol, 1.16 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide | 684 mg | BrC=1C=C2C(C3(CC3)COC2=CC1)(C(CO)(F)F)NC(=S)NC(C1=CC=CC=C1)=O | C21H19BrF2N2O3S
